US08461185B2
Step C: N-[(1R)-1-(5-fluoro-2-pyridinyl)ethyl]-3-[(5S)-5-(2-pyridinyl)-4,5-dihydro-3-isoxazolyl]-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide
To a solution of 3-bromo-N-[(1R)-1-(5-fluoro-2-pyridinyl)ethyl]-5-[(5S)-5-(2-pyridinyl)-4,5-dihydro-3-isoxazolyl]benzamide (0.547 g, 1.17 mmol) in dioxane (5.8 mL) were added bis(pinacolato)diboron (0.444 g, 1.75 mmol), potassium acetate (0.229 g, 2.33 mmol), and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (0.095 g, 0.117 mmol). The reaction mixture was stirred at 50° C. for 2 d. The reaction was cooled to ambient temperature and the mixture was filtered through Celite. The filtrate was concentrated. Saturated aqueous sodium bicarbonate was added. The mixture was extracted with ethyl acetate (3×). The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane→100% ethyl acetate) gave the title compound (0.547 g). MS 517.1 (M+1).

reactant | 3-bromo-N-[(1R)-1-(5-fluoro-2-pyridinyl)ethyl]-5-[(5S)-5-(2-pyridinyl)-4,5-dihydro-3-isoxazolyl]benzamide | 1.17 mmol, 0.547 g | BrC=1C=C(C(=O)N[C@H](C)C2=NC=C(C=C2)F)C=C(C1)C1=NO[C@@H](C1)C1=NC=CC=C1 | C22H18BrFN4O2
reactant | bis(pinacolato)diboron | 1.75 mmol, 0.444 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.33 mmol, 0.229 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 5.8 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.117 mmol, 0.095 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | N-[(1R)-1-(5-fluoro-2-pyridinyl)ethyl]-3-[(5S)-5-(2-pyridinyl)-4,5-dihydro-3-isoxazolyl]-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 0.547 g | FC=1C=CC(=NC1)[C@@H](C)NC(C1=CC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C1=NO[C@@H](C1)C1=NC=CC=C1)=O | C28H30BFN4O4
